Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Chest pain, Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH Mediastinal and hilar lymphadenopathy with RML collapse
s/p biopsy consistent with pneumoconiosis, HTN, depression, H.
Pylori infection, multinodular goiter, presenting for dyspnea /
cough / SOB with substernal chest pain.

Patient reports worsening SOB for the past 2 weeks, in the
setting of demonstrated worsening pleural effusions. She reports
2 days now of a new "popping" sensation in her chest; today
developed true chest pain ___ chest lasting all day.
Denies known history of afib. Endorses 15lb weight loss over the
past month or so, with poor appetite.  Also has some gas pain,
bladder fullness. Denies fever, chills. Patient called EMS
because of substernal chest pain and worsening SOB with
palpitations, and was found to be in afib w/ RVR. 

In the ED, initial VS were: 97.4 166/84 99 30 94/RA  

Labs showed:  
- WBC 10.7 h/h WNL
- BNP 190
- Trop 0.01
- Lactate 2.9
- K 4.6 Chem WNL Cr 0.8
- No UTI on UA
- LFTs pending

Imaging showed: 
-CXR: 
In comparison with the study of ___, there again are 
small
bilateral pleural effusions and a thick streak of atelectasis in
the right mid lung. Continued substantial enlargement of the
cardiac silhouette without vascular congestion. This discordance
raises the possibility of cardiomyopathy or pericardial 
effusion.

-EKG: sinus, small non-pathologic q waves inferolaterally, no
ischemic changes

Patient received nothing

Transfer VS were: 98.2 123/65 79 24 93/RA  

On arrival to the floor, patient reports improvement in chest
pain, with ongoing SOB.  

 
Past Medical History:
Mediastinal and hilar lymphadenopathy with RML collapse s/p 
biopsy consistent with pneumoconiosis
Lung nodules
HTN
Depression
H. pylori infection
Multinodular goiter
Dysphagia 
 
Social History:
___
Family History:
No known heart disease, lung disease, or cancers.
 
Physical Exam:
===========================
Admission Physical Exam
===========================
VS: 98.5  138/85  79  18  95/Ra  
GENERAL: Appears well, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva 
NECK: supple, no LAD, unremarkable thyroid exam with some
anterior goiter  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
CHEST: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles. No axillary LAD.    
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes. 

==============================
Discharge Physical Exam
==============================
VITALS: T98.2 BP 100-113 / 66-72 HR ___ RR 18 O2 97 Ra 
WEIGHT:  81.5  kg
WEIGHT ON ADMISSION:  82.7  kg

TELEMETRY: HR up to 130s briefly, Otherwise, NSR with HR in
70-80s

PHYSICAL EXAM: 
GENERAL:  Elderly woman resting comfortably in bed in NAD
AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva  
 NECK: supple, no LAD, unremarkable thyroid exam with some
anterior goiter  
 HEART: normal rate and regular rhythm, normal S1/S2, no 
murmurs,
gallops, or rubs  
 CHEST: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles. No axillary LAD.  
 ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose   
 
Pertinent Results:
=====================
Admission Labs
=====================
___ 11:23PM BLOOD WBC-10.7* RBC-4.06 Hgb-11.3 Hct-34.5 
MCV-85 MCH-27.8 MCHC-32.8 RDW-12.7 RDWSD-38.9 Plt ___
___ 11:23PM BLOOD Neuts-63.7 ___ Monos-9.2 Eos-1.8 
Baso-0.6 Im ___ AbsNeut-6.84* AbsLymp-2.59 AbsMono-0.98* 
AbsEos-0.19 AbsBaso-0.06
___ 11:23PM BLOOD ___ PTT-26.4 ___
___ 11:23PM BLOOD Glucose-159* UreaN-8 Creat-0.8 Na-136 
K-5.6* Cl-96 HCO3-21* AnGap-19*
___ 11:23PM BLOOD ALT-33 AST-46* AlkPhos-117* TotBili-0.4
___ 11:23PM BLOOD cTropnT-<0.01
___ 11:23PM BLOOD proBNP-190
___ 11:23PM BLOOD Albumin-4.1 Calcium-9.3 Phos-3.6 Mg-2.4
___ 11:28PM BLOOD Lactate-2.9* K-4.6

=====================
Imaging/Procedures
=====================
___ CXR:
EXAMINATION:  CHEST (SINGLE VIEW)
 
INDICATION:  ___ year old woman with sob, interval change from 
yesterday// sob,
interval change
 
IMPRESSION: 
In comparison with the study of ___, there again are 
small bilateral
pleural effusions and a thick streak of atelectasis in the right 
mid lung.
Continued substantial enlargement of the cardiac silhouette 
without vascular
congestion.  This discordance raises the possibility of 
cardiomyopathy or
pericardial effusion.

___ Treadmill Exercise Stress Test
INTERPRETATION: This is a ___ year old woman here for the 
evaluation
of chest pain and dyspnea. The patient exercised on a Modified 
___
treadmill protocol and stopped for fatigue after the completion 
of 6
minutes. The peak estimated metabolic capacity was ___ METs, an 
average
functional capacity for age. There were no chest, arm, neck or 
back
discomforts reported by the patient throughout the study. There 
were
no ischemic ECG changes. The rhythm was sinus with rare PVCs. 
There
were two episodes of dyspnea in recovery accompanied by frequent 
PACs.
The blood pressure and heart rate responses to exercise were
appropriate.
 
IMPRESSION: No anginal type symptoms with dyspnea and PACs in 
recovery.
No ischemic ECG changes to the average workload achieved. 
Appropriate
hemodynamic response.

___ TTE
The left atrial volume index is normal. Normal left ventricular 
wall thickness, cavity size, and regional/global systolic 
function (biplane LVEF = 67 %). The estimated cardiac index is 
normal (>=2.5L/min/m2). Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
There is borderline pulmonary artery systolic hypertension. 
There is a small circumferential pericardial effusion without 
echocardiographic signs of tamponade. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Small 
circumferential pericardial effusion without evidence for 
hemodynamic compromise. No valvular pathology or pathologic flow 
identified. Increased PCWP. 

===========================
Discharge Labs
===========================
___ 01:05PM BLOOD WBC-11.6* RBC-3.91 Hgb-10.8* Hct-33.3* 
MCV-85 MCH-27.6 MCHC-32.4 RDW-12.7 RDWSD-39.3 Plt ___
___ 01:05PM BLOOD Glucose-136* UreaN-12 Creat-0.8 Na-136 
K-4.3 Cl-99 HCO3-25 AnGap-12
___ 09:40PM BLOOD CK-MB-2 cTropnT-<0.01
___ 01:05PM BLOOD Calcium-9.0 Phos-2.8 Mg-2.3
___ 07:35AM BLOOD TSH-0.27
___ 07:58AM BLOOD Lactate-1.4
 
Brief Hospital Course:
================
Summary
================
___ PMH Mediastinal and hilar lymphadenopathy with RML collapse 
s/p biopsy consistent with pneumoconiosis, HTN, depression, H. 
Pylori infection, multinodular goiter, presenting for dyspnea / 
cough / SOB with substernal chest pain. 

#CORONARIES: none on file
#PUMP: none on file
#RHYTHM: New paroxysmal atrial fibrillation

=========================================
ACUTE MEDICAL/SURGICAL ISSUES ADDRESSED: 
=========================================
# Atypical chest pain 
Patient presented with substernal chest pain that then migrated 
to epigastric area, with report from EMS of afib w/ RVR seen on 
initial evaluation. Associated with SOB and within the last 2 
days palpitations which are new. Difficult to obtain clear 
history from patient due to language barrier but did not sound 
cardiac in origin. Troponin 0.01 x3. EKG with some anterolateral 
q waves but not particularly convincing for ischemic changes. No 
evidence of pericarditis on EKG, had recent V/Q scan that ruled 
out PE. Pulmonology had been consulted on previous admission and 
do not feel chest pain related to lung pathology. ETT on ___ 
was negative for ischemia. Patient had been being treated for 
active H. pylori infection and completed 10 day course of 
antibiotics ___. Spoke to GI who said that patient should be 
trialed on high dose PPI for at least 8 weeks and monitor for 
resolution of pain. If pain is still refractory, PCP should 
refer to GI for further work-up. Omeprazole increased from 20mg 
to 40mg BID. Patient without further chest pain during 
hospitalization.

# Atrial tachycardia 
Initially thought that patient had atrial fibrillation prior to 
admission as was noted in field by EMS but no strips showing 
irregular rhythm in chart. No prior history of a-fib. Evening of 
___, patient was symptomatic with palpitations and found to 
have atrial tachycardia to 130s. Unclear trigger but could be 
due to underlying pneumoconiosis and chronic cough. TSH normal 
at 0.27. Started metoprolol for rate control ___. Will be 
discharged on metoprolol XL 50mg daily. Can reassess need for 
medication in 3 months. 

# Small pericardial effusion
TTE done ___ which showed normal biventricular cavity size and 
systolic function (LVEF 67%). There was a note of a small, 
circulferential pericardial effusion with no signs of tampenade. 
Likely secondary to chronic inflammation in setting of 
underlying lung problems but should have follow-up TTE in 4 to 6 
weeks to ensure resolution.

# Pleural effusions 
# Pneumoconiosis w/ hilar LAD and lung nodules 
# Dyspnea
# Non-productive cough 
Patient with cardiomegaly on CXR with new onset slowly growing 
pleural effusions. Endorsed dyspnea but still oxygenating well 
on RA at rest and with ambulation. Stated she had 15 lb weight 
loss in last 2 weeks but upon review weights have been stable 
over last month. Had bronchoscopy on ___ with FNA biopsy 
consistent with pneumoconiosis likely from exposures in 
___. Since Bronchoscopy, patient has had persistent dry 
cough and dyspnea. It is possible to have a mild inflammatory 
reaction from bronchoscopy and BAL but unusual for symptoms to 
persist 2 to 3 weeks. Cough could also be from GERD iso H. 
pylori and gastritis. IP and Pulm were consulted and recommended 
starting bronchodilators and 5 day course of pred 40mg (start 
___ for possible pneumoconiosis exacerbation. Did not feel 
complications from bronch or pleural effusions would cause 
dyspnea and cough.

CHRONIC ISSUES: 
=============== 
# HTN: Stopped amlodipine and started metoprolol for atrial 
tachycardia
# H. Pylori infection: continued amoxicillin / clarithromycin / 
omeprazole until ___. Completed a 10 day course (started ___, 
end ___

=====================
Transitional issues
=====================
[ ]Recommend full pfts with spirometry, lung volumes and 
diffusion pre and post bronchodilator if these have not yet been 
done 
[ ]She should be followed in pulmonary clinic and have annual 
PFTs to monitor possible changes in her lung function overtime. 
[ ] Continue albuterol inhaler, 2 puff q6hrs PRN for cough and 
SOB
[ ] Finish 5 day course of Prednisone 40mg (___)
[ ] New onset atrial tachycardia. Would monitor for resolution 
as outpatient. Possibly due to pneuconiosis exacerbation 
currently.
[ ] Stopped amlodipine and started metoprolol. Patient does not 
want to take metoprolol long-term but told should stay on for at 
least 1 month and to only stop under direction of physician
[ ]There was a note of a small, circulferential pericardial 
effusion with no signs of tampenade on TTE ___. Likely 
secondary to chronic inflammation in setting of underlying lung 
problems but should have follow-up TTE in 4 to 6 weeks to ensure 
resolution.
[ ] Increased omeprazole from 20mg to 40mg for possible 
gastritis/esophagitis related to recent H. pylori infection. 
Should be trialed on high dose PPI for at least 8 weeks and 
monitor for resolution of pain. If pain is still refractory, 
should refer to GI for further work-up.
[ ] Finished 10-day course of triple therapy for H. pylori on 
___. Would re-test for eradication in 4 weeks. please hold PPI 
1 to 2 weeks prior to testing.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin 1000 mg PO Q12H 
2. Benzonatate 100 mg PO TID:PRN cough 
3. Clarithromycin 500 mg PO Q12H 
4. Omeprazole 20 mg PO BID 
5. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN Cough, SOB 
RX *albuterol sulfate [Ventolin HFA] 90 mcg 2 Puff by mouth 
every 6 hours as needed Disp #*1 Inhaler Refills:*3 
2.  GuaiFENesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 200 mg 1 tablet by mouth every 6 hours as needed 
Disp #*30 Tablet Refills:*0 
3.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*3 
4.  PredniSONE 40 mg PO DAILY Duration: 5 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
5.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*30 
Capsule Refills:*2 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
===================
Primary diagosis
===================
# Atypical chest pain

===================
Secondary diagnosis
===================
# Atrial tachycardia   
# Pneumoconiosis w/ hilar LAD and lung nodules 
# HTN
# H. Pylori infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ you very much for allowing us to care for you during your 
hospitalization at the ___.

WHAT HAPPENED DURING MY HOSPITAL STAY?
- You had chest pain and we did a study called an exercise 
stress test which showed that the pain was not coming from your 
heart.
-Your chest pain is likely from your stomach infection called H. 
pylori for which you have completed 10 days of antibiotic 
medications. We increased the dose of your acid blocking 
medication called omeprazole from 20mg twice a day to 40mg twice 
a day. You should continue this medication for 8 weeks and let 
your primary care doctor know if you continue to have pain.
- You were found to have an abnormal heart rhythm called atrial 
tachycardia and were started on a medication called metoprolol 
to control your heart rate
- You had some trouble breathing and were seen by lung 
specialists who recommended that you start a medication called 
albuterol to help you breathe better
- You were also evaluated by the bronchoscopy doctors who 
recommended starting an albuterol inhaler and 5 days of steroids 
to reduce your lung inflammation. This should help with your 
cough and shortness of breath.

WHAT SHOULD I DO WHEN I GO HOME?
- Continue taking the metoprolol every day to control your heart 
rate. You should follow-up with your primary care doctor who can 
monitor your heart rate and determine if this medication is 
still needed.
- You should continue taking the albuterol as prescribed for 
your shortness of breath
- It is important that you take the omeprazole as this 
medication helps to prevent stomach damage from acid and reduce 
your chest discomfort.
- You should stop taking your amlodipine (medication for high 
blood pressure) as you no longer need this medication.
- Continue taking all your medications as prescribed on this 
discharge document.
- Follow-up with your primary care doctor. We will make an 
appointment for you.

We wish you the best,
Your ___ care team

 
Followup Instructions:
___